US08304419B2
Step B: 4-chloro-N-({4-chloro-3-[(3-cyano-5-cyclopropylphenyl)oxy]-2-fluorophenyl}methyl)-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide
To a mixture of 30% aqueous KOH (30 mL) and diethyl ether (30 mL) was added N-methyl-N-nitrosourea (0.264 g, 2.56 mmol) in one potion with stirring and cooling at 0° C. and the reaction mixture was maintained at this temperature for 20 min. The organic phase was isolated, dried over KOH pellets and added dropwise to a solution of 4-chloro-N-({4-chloro-3-[(3-cyano-5-ethenylphenyl)oxy]-2-fluorophenyl}methyl)-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide (0.144 g, 0.256 mmol) and palladium(II) acetate (5.8 mg, 0.026 mmol) in diethyl ether (30.0 mL) with stirring and cooling at 0° C. DCM (20 mL) was added to the reaction mixture to achieve complete solution and the reaction mixture was stirred at 0° C. for 1 h at which time LC-MS indicated complete conversion to desired product. Water and a small amount of acetic acid were added to the reaction mixture and stirred vigorously at room temperature for 1 h. The organic phase was isolated, washed with saturated aqueous NaHCO3, dried over MgSO4, filtered and concentrated to dryness. The residue was purified on 40 g silica gel eluted with 20 to 60% EtOAc/hexanes to give 4-chloro-N-({4-chloro-3-[(3-cyano-5-cyclopropylphenyl)oxy]-2-fluorophenyl}methyl)-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide (0.132 g, 0.230 mmol, 90% yield) as a clear oil. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.79 (t, J=5.68 Hz, 1H), 8.00 (s, 1H), 7.36-7.54 (m, 2H), 7.28 (s, 1H), 7.11 (s, 1H), 7.05 (s, 1H), 5.51 (s, 2H), 4.50 (d, J=5.68 Hz, 2H), 3.40 (t, J=8.10 Hz, 2H), 1.92-2.05 (m, 1H), 0.95-1.05 (m, 2H), 0.71-0.82 (m, 4H), −0.07 (s, 9H). LC-MS (ES−) m/z 575.13, 575.05 [M−1]. LC-MS (ES+) m/z 575.11, 577.12 [M+H].

reactant | KOH | 30 mL | [OH-].[K+]
reactant | N-methyl-N-nitrosourea | 2.56 mmol, 0.264 g | CN(C(=O)N)N=O | C2H5N3O2
reactant | 4-chloro-N-({4-chloro-3-[(3-cyano-5-ethenylphenyl)oxy]-2-fluorophenyl}methyl)-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide | 0.256 mmol, 0.144 g | ClC=1N=CN(C1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C=C)C#N)F)COCC[Si](C)(C)C | C26H27Cl2FN4O3Si
reactant | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | 30.0 mL | C(C)OCC | C4H10O
catalyst | palladium(II) acetate | 0.026 mmol, 5.8 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | diethyl ether | 30 mL | C(C)OCC | C4H10O
product | 4-chloro-N-({4-chloro-3-[(3-cyano-5-cyclopropylphenyl)oxy]-2-fluorophenyl}methyl)-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide | ClC=1N=CN(C1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C1CC1)C#N)F)COCC[Si](C)(C)C | C27H29Cl2FN4O3Si
